US04748239
(E) (cis)-7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
A solution of 7-chloro-1,3,4,5-tetrahydro3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (0.5 g, 1.33 mmole) and lithium iodide (0.178 g, 1.33 mmole) in dry pyridine (20 ml) was refluxed under argon until complete conversion to product by TLC. The reaction was cooled to room temperature and concentrated in vacuo. The residue was dissolved in chloroform and extracted twice with 1N hydrochloric acid, once with saturated sodium chloride, and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was triturated with ether to yield 0.22 g of the cis product.

reactant | 7-chloro-1,3,4,5-tetrahydro3-hydroxy-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 1.33 mmole, 0.5 g | ClC=1C=CC2=C(CC(C(C(N2)=O)(C(=O)OC)O)C2=CC=C(C=C2)OC)C1 | C19H18ClNO5
reactant | lithium iodide | 1.33 mmole, 0.178 g | [I-].[Li+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | (cis)-7-Chloro-1,3,4,5-tetrahydro-3-hydroxy-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | ClC=1C=CC2=C(C[C@@H]([C@@H](C(N2)=O)O)C2=CC=C(C=C2)OC)C1 | C17H16ClNO3
